US07524841B2
The 4-[(1,3-dioxoisoindolin-2-yl)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester was dissolved in ethanol (200 mL), and then hydrazine monohydrate (10.0 mL) was added. After stirring at room temperature for 2 hours, the precipitated solid was filtered out and the filtrate was concentrated under reduced pressure. The obtained crudely purified product was further purified by silica gel column chromatography (5% MeOH/CH2Cl2) to obtain 4-(aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester. The compound was identified by 1H-NMR. The yield was 3.23 g (76%).

reactant | 4-[(1,3-dioxoisoindolin-2-yl)methyl]-4-fluoropiperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CN1C(C2=CC=CC=C2C1=O)=O | C19H23FN2O4
reactant | hydrazine monohydrate | 10.0 mL | O.NN
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-(aminomethyl)-4-fluoropiperidinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)CN | C11H21FN2O2
